US07112585B2
To a solution of 4-[2-methyl-4-(2,4,6-trimethyl-phenylamino)-pyrimidine-5-sulfonyl]-phenol (122 mg, 0.318 mmol), prepared by the method described in Example 2, and triethylamine (0.053 mL, 0.38 mmol) in CH2Cl2 (3 mL) was added trifluoromethanesulfonyl chloride (0.037 mL, 0.35 mmol) at 0° C. The reaction mixture was stirred under N2 and slowly warmed to room temperature. The mixture was treated with saturated aqueous NaHCO3, and extracted (3×) with CH2Cl2. The combined organic layers were washed with brine, dried over Na2SO4, filtered and concentrated in vacuo. The residue was purified by chromatography on silica gel (67:33 hexanes/EtOAc) to provide trifluoromethanesulfonic acid 4-[2-methyl-4-(2,4,6-trimethylphenylamino)-pyrimidine-5-sulfonyl]-phenyl ester (150 mg, 91%) as a white solid: 1H NMR (300 MHz, CDCl3) δ 8.79 (s, 1H), 8.15 (br s, 1H), 8.08 (d, J=8.9 Hz, 2H), 7.47 (d, J=8.9 Hz, 2H), 6.92 (s, 2H), 2.42 (s, 3H), 2.31 (s, 3H), 1.98 (s, 6H); ESI MS m/z 516 [(M+H)+, calcd for C21H21F3N3O5S2, 516.1].

reactant | 4-[2-methyl-4-(2,4,6-trimethyl-phenylamino)-pyrimidine-5-sulfonyl]-phenol | 0.318 mmol, 122 mg | CC1=NC=C(C(=N1)NC1=C(C=C(C=C1C)C)C)S(=O)(=O)C1=CC=C(C=C1)O | C20H21N3O3S
reactant | triethylamine | 0.38 mmol, 0.053 mL | C(C)N(CC)CC | C6H15N
reactant | trifluoromethanesulfonyl chloride | 0.35 mmol, 0.037 mL | FC(S(=O)(=O)Cl)(F)F | CClF3O2S
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | CH2Cl2 | 3 mL | C(Cl)Cl | CH2Cl2
product | trifluoromethanesulfonic acid 4-[2-methyl-4-(2,4,6-trimethylphenylamino)-pyrimidine-5-sulfonyl]-phenyl ester | 150 mg, 91% | CC1=NC=C(C(=N1)NC1=C(C=C(C=C1C)C)C)S(=O)(=O)C1=CC=C(C=C1)OS(=O)(=O)C(F)(F)F | C21H20F3N3O5S2
